US09353075B2
Step 3. Preparation of (2S*,3R*)-2-amino-3-hydroxy-4,4-dimethyl-pentanoic acid
In a round-bottomed flask, ethyl (2S*,3R*)-2-amino-3-hydroxy-4,4-dimethyl-pentanoate (0.596 g, 3.7 mmol) was dissolved in a 6.0 M HCl solution (70 mL). The resulting solution was divided into two equal aliquots and stirred at 130° C. for 1 h. All portions were joined and the reaction mixture extracted with Et2O (3×50 ml). The aqueous phase was concentrated under reduced pressure and the resulting yellowish solid crude product (0.675 g, 93%) was used without further purification in the following reaction. MS (ESI) m/z: 162 [M−H]+; (ESI) m/z: 160 [M−H]−. 1H NMR (DMSO-d6) δ 0.91 (s, 9H), 3.66 (d, J=3.24 Hz, 1H), 3.89 (s, 1H), 5.95 (d, J=6.39 Hz, 1H), 7.92 (s, 3H), 13.88 (s, 1H).

reactant | ethyl (2S*,3R*)-2-amino-3-hydroxy-4,4-dimethyl-pentanoate | 3.7 mmol, 0.596 g | N[C@H](C(=O)OCC)[C@@H](C(C)(C)C)O | C9H19NO3
solvent | HCl | 6.0 M, 70 mL | Cl | ClH
product | (2S*,3R*)-2-amino-3-hydroxy-4,4-dimethyl-pentanoic acid | N[C@H](C(=O)O)[C@@H](C(C)(C)C)O | C7H15NO3
